Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Compazine / Tegaderm / latex / Reglan / bacitracin / 
erythromycin base
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Cervical dilation and manual vacuum aspiration

 
History of Present Illness:
CC: pelvic pain

HPI: ___ yo ___ s/p Novasure endometrial ablation (___) p/w LLQ
and vaginal spotting.

Pt states that her symptoms started on ___, when she presented
to OSH ED (___, ___. She initially had severe LLQ
pain radiating to lower leg associated w/ diarrhea and vomiting.
Per pt report, CT scan which showed a L ovarian cyst and no e/o
appendicitis or other intra-abdominal pathology. She was
diagnosed w/ gastroenteritis, discharged w/ Rx for pain meds, 
and
was instructed to f/u with her gyn.

Since then, she has had improvement in her pain to a dull
menstrual-type cramp with Tylenol, ibuprofen, and a 
narcotic-type
medication.

Today (___) she developed loose stools in the afternoon
followed by return of severe, sharp LLQ pain which has waxed and
waned in intensity throughout the day. The pain got so severe
while she was at work that her colleagues called an ambulance
while she was lying on the floor. She had dry heaves and nausea
with onset of the pain.

Pt also noted a small amount of vaginal spotting (bright red
blood) today. She recalls that after her endometrial ablation in
___ she had 3 months of light spotting during her menses (___). Today is the first day that she has noticed any
vaginal bleeding since ___. She denies fevers, chills, CP,
SOB, dizziness, lightheadedness. Denies sick contacts or recent
travel. 

She has received IV dilaudid 0.5mg x2 as well as IV morphine 4mg
x1 in the ED. Her pain is currently 1 out of 10.

ROS: as per HPI otherwise negative

 
Past Medical History:
OBHx: G5P1
- SAB x4 (no D&C)
- C-sections (c/b hyperemesis, C-section for suspected
macrosomia)

GynHx:
- LMP: ___
- cervical CA screening: denies hx of abnormal pap smear
- gyn surgeries: 
     C-section PPTL
     novasure endometrial ablation (___)
- endometriosis
- AUB w/ heavy menses now s/o novasure ablation
- sexually active: yes
- contraception: PPTL
- STI: denies

PMH: 
- HTN
- depression
- seasonal asthma
- mitral valve regurgitation
- h/o SVT

PSH:
- C-section, PPTL
- endometrial ablation
- breast reduction
- ?cystoscopy + renal imaging (pt unsure of indication)
- mole removal (hip, back)

Meds:
- amlodipine 
- lexapro 
- buspirone
- proair prn

All: latex, tegaderm, reglan, Compazine, erythromycin
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Discharge exam
Vital signs stable
General: NAD, comfortable
CV: RRR, normal s1 and s2, no m/r/g
Lungs: normal work of breathing, CTAB
Abdomen: soft, non-distended, mild LLQ and L-sided periumbilical
tenderness to palpation without rebound or guarding
GU: pad with moderate spotting
Extremities: no edema, no TTP, pneumoboots in place bilaterally 

 
Pertinent Results:
___ 05:00PM BLOOD WBC-9.3 RBC-4.78 Hgb-13.8 Hct-41.5 MCV-87 
MCH-28.9 MCHC-33.3 RDW-12.1 RDWSD-38.4 Plt ___
___ 05:00PM BLOOD Neuts-66.4 ___ Monos-6.4 Eos-2.9 
Baso-0.5 Im ___ AbsNeut-6.15* AbsLymp-2.17 AbsMono-0.59 
AbsEos-0.27 AbsBaso-0.05
___ 05:00PM BLOOD Glucose-91 UreaN-9 Creat-0.7 Na-140 K-4.9 
Cl-105 HCO3-20* AnGap-15
___ 05:00PM URINE Color-Straw Appear-Clear Sp ___
___ 05:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 05:00PM URINE UCG-NEGATIVE
___ 11:30PM OTHER BODY FLUID CT-NEG NG-NEG
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service for 
further management of likely postablation tubal sterilization 
syndrome. 

*) pelvic pain, postablation tubal sterilization syndrome
Ms. ___ initially presented with LLQ abdominal pain, nausea, 
and loose bowel movements concerning for an acute GI process. A 
CT abdomen/pelvis was negative for appendicitis, diverticulitis, 
or acute GI pathology but demonstrated fluid within the 
endometrial cavity and dilated fallopian tubes bilaterally 
(left>right).  A pelvic US showed no evidence of adnexal 
pathology or ovarian torsion and demonstrated fluid distending 
the endometrium consistent with CT findings, concerning for 
hematometra in the setting of postablation tubal sterilization 
syndrome. There was low suspicion for PID, as her initial 
infectious workup was negative with no leukocytosis, negative 
gonorrhea and chlamydia testing, and negative UA. Her pain was 
initially treated with IV Dilaudid/Toradol, and she was 
transitioned to PO oxycodone/ibuprofen/Tylenol. On ___, she 
underwent cervical dilation and manual vacuum aspiration in GYN 
Triage for evacuation of hematometra (see procedure note for 
full details). Her pelvic pain significantly improved after her 
procedure, and her diet was advanced without difficulty. Shortly 
after her procedure, she was tolerating a regular diet, voiding 
spontaneously, ambulating without difficulty, and her pain was 
controlled with PO pain medications, and she was discharged home 
with arrangements for outpatient follow up. 

*) HTN
She continued her home amlodipine and had mildly elevated blood 
pressures during her admission.

*) Depression
She continued her home Lexapro and buspirone during her 
admission.

 
Medications on Admission:
amlodipine, Lexapro, buspirone
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not take more than 4000 mg per day. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
Take with food.  
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
Do not drive or drink alcohol while taking this medication.  
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*5 Tablet Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  BusPIRone 15 mg PO Q24H  
6.  Escitalopram Oxalate 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
postablation tubal sterilization syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call the ___ Resident 
Clinic office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 2 
weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___